US08455646B2
Preparation of (3-fluoro-4-methyl-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester (C49)
(3-Fluoro-4-methyl-phenylamino)-phenyl-acetic acid hydrochloride (I48) (250 mg, 0.84 mmol), 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate (V) (321 mg, 0.84 mmol), and HOBT (129 mg, 0.84 mmol) are dissolved in acetonitrile (6 mL). DIPEA (0.29 mL, 1.69 mmol) is added, followed by (R)-quinuclidin-3-ol (215 mg, 1.69 mmol) and the resulting yellow solution is stirred at RT overnight (Conversion complete by UPLC/MS-UV). MeCN is evaporated, the residue is dissolved in EtOAc and washed with sat. NaHCO3, water and brine. The organic layer is recovered, dried over Na2SO4, filtered and evaporated. The crude compound is purified by filtration through a pad of silica using DCM/MeOH=9/1 as the eluent to obtain the title compound as a yellow oil (311 mg, quantitative yield, mixture of diastereoisomers).

reactant | (3-Fluoro-4-methyl-phenylamino)-phenyl-acetic acid hydrochloride | 0.84 mmol, 250 mg | Cl.FC=1C=C(C=CC1C)NC(C(=O)O)C1=CC=CC=C1
reactant | HOBT | 0.84 mmol, 129 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.69 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-quinuclidin-3-ol | 1.69 mmol, 215 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (3-fluoro-4-methyl-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester | 311 mg, quantitative yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NC2=CC(=C(C=C2)C)F)=O | C22H25FN2O2
